Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hyponatremia, orthostasis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o F with a h/o HTN who had a head injury on ___ in 
the setting of EtOH intoxication, who presents today at request 
of her PCP for persistent HA and orthostatic hypotension.

She reports she fell back on her head from a seated position 
after having several cocktails on ___. There was a loss of 
consciousness, as well as bruising around her right eye and 
posterior scalp tenderness. She was evaluated at ___ ___ 
w/ CT head and C-spine, sig only for R occipital scalp subQ 
hematoma. She was discharged home that day with closed head 
injury precautions.

Since that time she reports intermittent dizziness and 
lightheadedness, on and off. Does report some nausea (no emesis) 
on ___, with vomiting, now resolved. This n/v occurred while 
eating after being on her computer for an extended period of 
time. PO intake has been a bit poor. She has neck pain still, 
which causes trouble sleeping. She has had a runny nose the last 
few days. She had bruising around her eye following the fall, 
which initially got worse, but is now slowly getting better.
Denies changes in vision, hearing, smell, taste, weakness, or 
confusion. Also denies fever, chills, cough, SOB, sinus pain, 
chest pain, abdominal pain, dysuria.

Was seen by PCP ___. There she was tachycardic to 110's. BP 
was 74/48 standing, and then she became lightheaded with 
systolic 64. She was referred to the ED. She took her BP meds 
this morning.

In the ED, initial vitals were: 97.8, HR 85, 92/61, 18, 100% RA
Labs showed: Na 127, then 128, then 129
Imaging showed: CT head with subgaleal hematoma, no acute 
process
Received approximately 250cc of NS, later stopped as 
presentation was felt to be more consistent with SIADH
NSGY were consulted, seeing no need for surgical intervention, 
saying there was no radiographic evidence of basilar skull 
fracture but this cannot be ruled out completely by CT, and 
recommending follow up as outpatient.
Decision was made to admit to medicine for further management.
Review of systems:
(+) Per HPI
(-) 10 point ROS reviewed and negative unless stated above in 
HPI

 
Past Medical History:
HTN
 
Social History:
___
Family History:
Father - ___ Grandfather - CAD, PVD, Hypertension
Maternal Grandmother - ___ cancer
Mother - ___, HTN, Skin cancer
Paternal Grandfather - CAD, PVD, Hypertension
 
Physical Exam:
ADMISSION EXAM:

Vital Signs: 98.2, 126/82, HR 80, RR 20, 98% RA
General: Alert, oriented, no acute distress
HEENT: Periorbital ecchymosis present left. PERRLA, EOMI. OP 
clear.
Neck: Significant bruising over posterior neck
CV: RRR no murmur
Lungs: CTAB
Abdomen: Soft, NT/ND
GU: Deferred
Ext: Warm, well perfused, no edema
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE EXAM:
PHYSICAL EXAM:
99 / 72 R Standing hr131             
107 / 71R seated hr 101             
98.1 PO 120 / 79 R Lying gr81 18 96 RA 

General: Alert, oriented, no acute distress
HEENT: Periorbital ecchymosis present left. PERRLA, EOMI. OP 
clear.
Neck: Significant bruising over posterior neck
CV: RRR no murmur
Lungs: CTAB
Abdomen: Soft, NT/ND
Ext: Warm, well perfused, no edema
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

 
Pertinent Results:
ADMISSION LABS:

___ 03:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:30PM   ___ PTT-28.7 ___
___ 03:30PM   PLT SMR-NORMAL PLT COUNT-197
___ 03:30PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 03:30PM   NEUTS-69 BANDS-0 LYMPHS-13* MONOS-16* EOS-0 
BASOS-0 ATYPS-2* ___ MYELOS-0 AbsNeut-2.97 AbsLymp-0.65* 
AbsMono-0.69 AbsEos-0.00* AbsBaso-0.00*
___ 03:30PM   WBC-4.3 RBC-3.84* HGB-12.7 HCT-36.8 MCV-96 
MCH-33.1* MCHC-34.5 RDW-12.4 RDWSD-43.0
___ 03:30PM   GLUCOSE-100 UREA N-16 CREAT-0.7 SODIUM-127* 
POTASSIUM-3.6 CHLORIDE-87* TOTAL CO2-25 ANION GAP-19

CTH ___
IMPRESSION:  
1.  No acute intracranial hemorrhage. 
2.  No fracture.  Posterior scalp hematoma. 
  

DISCHARGE LABS:

___ 08:30AM BLOOD WBC-3.2* RBC-3.62* Hgb-11.7 Hct-34.9 
MCV-96 MCH-32.3* MCHC-33.5 RDW-12.3 RDWSD-43.5 Plt ___
___ 01:43PM BLOOD Glucose-104* UreaN-11 Creat-0.8 Na-130* 
K-3.5 Cl-94* HCO3-25 AnGap-15
___ 03:30PM BLOOD Osmolal-266*
 
Brief Hospital Course:
___ y/o F with a h/o HTN and recent fall with headstrike who 
presents today persistent headache, orthostatic hypotension, 
found to be mildly hyponatremic.

# Hyponatremia: Sodium 127, to 128, to 129 in ED course. Urine 
sodium 61 and Urine Osm 371, so perhaps more consistent with 
SIADH, especially in the setting of a head injury.. However, she 
was initially orthostatic and hypotensive at clinic, so could be 
volume depletion in setting of poor PO intake. She is also on a 
thiazide which can cause this. She was briefly given IVF in ED, 
unclear how much but less than a liter. Overall most likely 
hypovolemic hyponatremia given remains orthostatic, history of 
poor po and volume depletion, and sodium improved with the IVF 
she got in the ED. Serum Osm was low and urine is relatively 
concentrated. High urine sodium can be due to diuretic effect. 
TSH was sent and will need follow up. Her hyponatremia 
stabilized with IVF at 130 on discharge. HCTZ was stopped 
pending PCP follow up.

# Orthostatic hypotension: However, she is on several 
anti-hypertensives at home, and reports poor PO intake and 
recently several days of diarrhea, now resolved. Orthostasis 
resolved with IVF and holding her antihypertensives. Her home 
antihypertensives were stopped on discharge pending PCP follow 
up. 

# Fall with headstrike: overall her symptoms appear to be 
improving. Repeat Head CT shows no acute process. Evaluated by 
NSGY in ED who found no concerning findings.

======================
TRANSITIONAL ISSUES:
-Repeat BMP on ___
-Will need follow up and titration of her blood pressure 
medications, held on discharge
-Please continue exploring possible alcohol use disorder with 
patient and motivation to decrease alcohol intake
-Follow up TSH
-STOPPED: metoprolol, HCTZ, lisinopril
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Hypovolemic hyponatremia
Hypovolemia

Secondary diagnosis:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you at ___ 
___.

Why did I have to stay in the hospital?
  You had to stay in the hospital because of low sodium and 
dehydration.

What was done for me?
  You received IV fluids and improved.

What should I do after I leave the hospital?
  You should stop taking your blood pressure medicines until you 
see your regular doctor. 
  You should get your sodium checked at the lab on ___ 
___.
  Please follow up with your regular doctor within one week.

Sincerely,
Your ___ Team
 
Followup Instructions:
___